**** Portas logicas usando finfet ****

.include 7nm_FF.pm
.param phig_var_p = gauss(4.8108, 0.05, 3)
.param phig_var_n = gauss(4.372, 0.05, 3)

**** Subcircuito TRANSMISSION ****

* 1 par finfet *
.subckt TRAN vp vm a s e ne
Mp1 a e s e PMOS_RVT nfin=3
Mn1 s ne a ne NMOS_RVT nfin=3
.ends

**** Subcircuito NOT ****

* 1 par finfet *
.subckt NOT vp vm a s
Mp1 vp a s a PMOS_RVT nfin=3
Mn1 s a vm a NMOS_RVT nfin=3
.ends

**** Subcircuito NAND ****

* 2 pares finfet *
.subckt NAND vp vm a b s
Mp1 vp a s a PMOS_RVT nfin=3
Mp2 vp b s b PMOS_RVT nfin=3
Mn1 s a 1 a NMOS_RVT nfin=3
Mn2 1 b vm b NMOS_RVT nfin=3
.ends

**** Subcircuito NAND3 ****

* 3 pares finfet *
.subckt NAND3 vp vm a b c s
Mp1 vp a s a PMOS_RVT nfin=3
Mp2 vp b s b PMOS_RVT nfin=3
Mp3 vp c s c PMOS_RVT nfin=3
Mn1 s a 1 a NMOS_RVT nfin=3
Mn2 1 b 2 b NMOS_RVT nfin=3
Mn3 2 c vm c NMOS_RVT nfin=3
.ends

**** Subcircuito NAND4 ****

* 4 pares finfet *
.subckt NAND4 vp vm a b c d s
Mp1 vp a s a PMOS_RVT nfin=3
Mp2 vp b s b PMOS_RVT nfin=3
Mp3 vp c s c PMOS_RVT nfin=3
Mp4 vp d s d PMOS_RVT nfin=3
Mn1 s a 1 a NMOS_RVT nfin=3
Mn2 1 b 2 b NMOS_RVT nfin=3
Mn3 2 c 3 c NMOS_RVT nfin=3
Mn4 3 d vm d NMOS_RVT nfin=3
.ends

**** Subcircuito NAND8 ****

* 8 pares finfet *
.subckt NAND8 vp vm a b c d e f g h s
Mp1 vp a s a PMOS_RVT nfin=3
Mp2 vp b s b PMOS_RVT nfin=3
Mp3 vp c s c PMOS_RVT nfin=3
Mp4 vp d s d PMOS_RVT nfin=3
Mp5 vp e s e PMOS_RVT nfin=3
Mp6 vp f s f PMOS_RVT nfin=3
Mp7 vp g s g PMOS_RVT nfin=3
Mp8 vp h s h PMOS_RVT nfin=3
Mn1 s a 1 a NMOS_RVT nfin=3
Mn2 1 b 2 b NMOS_RVT nfin=3
Mn3 2 c 3 c NMOS_RVT nfin=3
Mn4 3 d 4 d NMOS_RVT nfin=3
Mn5 4 e 5 e NMOS_RVT nfin=3
Mn6 5 f 6 f NMOS_RVT nfin=3
Mn7 6 g 7 g NMOS_RVT nfin=3
Mn8 7 h vm h NMOS_RVT nfin=3
.ends

**** Subcircuito AND ****

* 3 pares finfet *
.subckt AND vp vm a b s
Mp1 vp a 2 a PMOS_RVT nfin=3
Mp2 vp b 2 b PMOS_RVT nfin=3
Mn1 2 a 1 a NMOS_RVT nfin=3
Mn2 1 b vm b NMOS_RVT nfin=3

Mp3 vp 2 s 2 PMOS_RVT nfin=3
Mn3 s 2 vm 2 NMOS_RVT nfin=3
.ends

**** Subcircuito AND3 ****

* 4 pares finfet *
.subckt AND3 vp vm a b c s
Mp1 vp a ns a PMOS_RVT nfin=3
Mp2 vp b ns b PMOS_RVT nfin=3
Mp3 vp c ns c PMOS_RVT nfin=3
Mn1 ns a 1 a NMOS_RVT nfin=3
Mn2 1 b 2 b NMOS_RVT nfin=3
Mn3 2 c vm c NMOS_RVT nfin=3

Mp4 vp ns s ns PMOS_RVT nfin=3
Mn4 s ns vm ns NMOS_RVT nfin=3
.ends

**** Subcircuito AND4 ****

* 5 pares finfet *
.subckt AND4 vp vm a b c d s
Mp1 vp a ns a PMOS_RVT nfin=3
Mp2 vp b ns b PMOS_RVT nfin=3
Mp3 vp c ns c PMOS_RVT nfin=3
Mp4 vp d ns d PMOS_RVT nfin=3
Mn1 ns a 1 a NMOS_RVT nfin=3
Mn2 1 b 2 b NMOS_RVT nfin=3
Mn3 2 c 3 c NMOS_RVT nfin=3
Mn4 3 d vm d NMOS_RVT nfin=3

Mp5 vp ns s ns PMOS_RVT nfin=3
Mn5 s ns vm ns NMOS_RVT nfin=3
.ends

**** Subcircuito NOR ****

* 2 pares finfet *
.subckt NOR vp vm a b s
Mp1 vp a 1 a PMOS_RVT nfin=3
Mp2 1 b s b PMOS_RVT nfin=3
Mn1 s a vm a NMOS_RVT nfin=3
Mn2 s b vm b NMOS_RVT nfin=3
.ends

**** Subcircuito OR ****

* 3 pares finfet *
.subckt OR vp vm a b s
Mp1 vp a 1 a PMOS_RVT nfin=3
Mp2 1 b 2 b PMOS_RVT nfin=3
Mn1 2 a vm a NMOS_RVT nfin=3
Mn2 2 b vm b NMOS_RVT nfin=3

Mp3 vp 2 s 2 PMOS_RVT nfin=3
Mn3 s 2 vm 2 NMOS_RVT nfin=3
.ends

**** Subcircuito XOR ****

* 3 pares finfet *
.subckt XOR vp vm a b s
Mp1 vp a na a PMOS_RVT nfin=3
Mn1 na a vm a NMOS_RVT nfin=3
Mp2 a b s b PMOS_RVT nfin=3
Mn2 s b na b NMOS_RVT nfin=3
Mp3 b a s a PMOS_RVT nfin=3
Mn3 s na b na NMOS_RVT nfin=3
.ends


**** Subcircuito XNOR ****

* 4 pares finfet *
.subckt XNOR vp vm a b s
Mp1 vp a na a PMOS_RVT nfin=3
Mn1 na a vm a NMOS_RVT nfin=3
Mp2 a b ns b PMOS_RVT nfin=3
Mn2 ns b na b NMOS_RVT nfin=3
Mp3 b a ns a PMOS_RVT nfin=3
Mn3 ns na b na NMOS_RVT nfin=3
Mp4 vp ns s ns PMOS_RVT nfin=3
Mn4 s ns vm ns NMOS_RVT nfin=3
.ends
